US06313145B1
5-Amino3-methyl-2-(pyridin-2-ylmethyloxy)pyridine (D15)
3-Methyl-5-nitro-2-(pyridin-2-ylmethyloxy)pyridine (D14, 1.42 g, 5.8 mmol) in ethanol (100 ml) was treated dropwise with a solution of tin (II) chloride (5.68 g) in conc. HCl (10 ml) at 60° C. The mixture was stirred at 60° C. for one hour, then cooled, diluted with water and basified with 40% aqueous sodium hydroxide solution. The aqueous solution was extracted with dichloromethane (3×100 ml), dried (Na2SO4) and evaporated in vacuo to afford the title compound (1.24 g, 100%) as a brown liquid.

reactant | 3-Methyl-5-nitro-2-(pyridin-2-ylmethyloxy)pyridine | 5.8 mmol, 1.42 g | CC=1C(=NC=C(C1)[N+](=O)[O-])OCC1=NC=CC=C1 | C12H11N3O3
reactant | tin (II) chloride | 5.68 g | [Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | HCl | 10 ml | Cl | ClH
solvent | water | O | H2O
product | 5-Amino3-methyl-2-(pyridin-2-ylmethyloxy)pyridine | 1.24 g, 100% | NC=1C=C(C(=NC1)OCC1=NC=CC=C1)C | C12H13N3O
